US07893099B2
Step 6: (1R,2R)-2-(4-Chloro-phenoxymethyl)-4-hydroxy-cyclopentanecarboxylic acid ethyl ester (epimeric mixture)
To a cold (ice bath) solution of (1R,2R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-(4-chloro-phenoxymethyl)-cyclopentanecarboxylic acid ethyl ester (epimeric mixture, 529 mg) in tetrahydrofuran (20 mL) was slowly added pyridine (8.1 g) and a pyridine-hydrofluoric acid complex (70% HF w/w, 9.07 g). The mixture was stirred 3 h at room temperature then solid sodium hydrogenocarbonate an aqueous saturated solution of sodium hydrogenocarbonate were added to adjust the pH to 7. The mixture was extracted with dichloromethane and the combined organic layers were washed with an aqueous saturated solution of sodium hydrogenocarbonate, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel with a gradient of cyclohexane/ethylacetate (6:1 to 1:1 v/v) as eluant to afford the title compound (0.346 g, 90%) as a light yellow oil. MS (EI): 299.1 (M+H)+.

reactant | (1R,2R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-(4-chloro-phenoxymethyl)-cyclopentanecarboxylic acid ethyl ester | 529 mg | C(C)OC(=O)[C@H]1[C@@H](CC(C1)O[Si](C)(C)C(C)(C)C)COC1=CC=C(C=C1)Cl | C21H33ClO4Si
reactant | pyridine | 8.1 g | N1=CC=CC=C1 | C5H5N
reactant | sodium | [Na] | Na
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (1R,2R)-2-(4-Chloro-phenoxymethyl)-4-hydroxy-cyclopentanecarboxylic acid ethyl ester | 0.346 g, 90% | C(C)OC(=O)[C@H]1[C@@H](CC(C1)O)COC1=CC=C(C=C1)Cl | C15H19ClO4
